US07094908B2
(40) Allyl 2-(4-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3-oxo-butyrate
Allyl 3-(4-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (331 mg, 0.91 mmol) was dissolved in a a solvent mixture of acetone/water (v/v=5/1), and catalyst amount of p-toluenesulfonic acid anhydride was added to the obtained solution. The resulting mixture was refluxed at 80° C. for 18 hours. After the reaction was completed, the reaction mixture was washed with water, and then acetone was removed by distilling under a reduced pressure. The residue was extracted with dichloromethane. The combined organic layer was dried with anhydrous sulfate and distilled under a reduced pressure. The desired product was obtained (131.2 mg, 31%) by performing column chromatography (eluent: n-hexane/ethyl acetate=2/1).

reactant | Allyl 3-(4-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 0.91 mmol, 331 mg | FC1=C2C(N(C(C2=CC=C1)=O)CC(C(=O)OCC=C)C1(OCCO1)C)=O | C18H18FNO6
reactant | p-toluenesulfonic acid anhydride | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | acetone water | CC(=O)C.O
product | Allyl 2-(4-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3-oxo-butyrate | FC1=C2C(N(C(C2=CC=C1)=O)CC(C(=O)OCC=C)C(C)=O)=O | C16H14FNO5
